US04871865
(b) (E)/(Z)-3-(9-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine.
Anhydrous 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide (31 g., 60.9 mmole), 122 mmole of n-butyl lithium in hexane, and 9-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one (12.7 g., 43.8 mmole) were reacted in 750 mL dry tetrahydrofuran by the procedure of Example I, Step b. This provided an E/Z (1:6) isomeric mixture of bromoamines. Recrystallization of the mixture from ethyl acetate/methanol gave 1.2 g. of pure Z-isomer as its hydrochloride salt, melting range 91°-100° C. and 2.16 g. of an E/Z (1:4) isomeric mixture which was used in the next step without further purification. pmr (Z-isomer) (CDCl3) δ: 6.94-7.46 (m, 7H, aromatic), 5.64 (t, J=8.0 Hz, 1H, CH=), 5.15 (br s, 2H, CH2O), 3.07 (m, 4H, NCH2CH2), 2.75 (s, 6H, NMe2).

reactant | 3-(dimethylamino)propyltriphenylphosphonium bromide hydrobromide | 60.9 mmole, 31 g | Br.[Br-].CN(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | n-butyl lithium | 122 mmole | C(CCC)[Li]
reactant | 9-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one | 43.8 mmole, 12.7 g | BrC=1C=CC2=C(C(C3=C(OC2)C=CC=C3)=O)C1 | C14H9BrO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
product | (Z)-3-(9-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-N,N-dimethylpropylamine | BrC=1C=CC2=C(/C(/C3=C(OC2)C=CC=C3)=C/CCN(C)C)C1 | C19H20BrNO
